US04931083
1-(4-chlorophenyl)thiosemicarbazide
Fifty g of 4-chlorophenylhydrazine hydrochloride and 40 g of ammonium thiocyanate were added to 250 ml of denatured ethanol and the mixture was stirred under reflux for 16 hours. It was then filtered while still hot and the filter cake was washed with about 100 ml of hot ethanol. As the filtrate cooled, the product began to crystallize, and it was collected and recrystallized from denatured ethanol to obtain 32.7 g of the desired intermediate, m.p. 200°-201°.

reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | ammonium thiocyanate | 40 g | [S-]C#N.[NH4+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)thiosemicarbazide | 32.7 g | ClC1=CC=C(C=C1)NNC(=S)N | C7H8ClN3S
